US08461158B2
A mixture of tert-butyl 4-[4-[2-(difluoromethyl)-4-(3-hydroxypropoxy)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate from the previous step and 0.34 g (3.3 mmol) of Et3N in 20 mL of THF was cooled to 0° C. and 0.32 g (2.8 mmol) of methanesulfonyl chloride was added dropwise. After 1 hr, 6 g of 40% aqueous Me2NH was added, and the resulting mixture was stirred at room temperature for 36 hrs. The THF was removed under vacuum and the residue was diluted with water and extracted into CH2Cl2. Drying and removal of the solvent gave tert-butyl 4-[4-{2-(difluoromethyl)-4-[3-(dimethylamino)propoxy]-1H-benzimidazol-1-yl}-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate as an oil: 1H NMR (CDCl3) δ 7.87 (dd, J=8.4. 0.6 Hz, 1H), δ 7.48 (t, JHF=53.5 Hz, 1H), 7.33 (t, J=8.2 Hz, 1H), 6.85 (d, J=7.8 Hz, 1H), 4.31 (t, J=6.7 Hz, 2H), 3.87 (m, 8H), 3.79 (m, 4H), 3.53 (m, 4H), 2.51 (t, J=7.2 Hz, 2H), 2.26 (s, 6H), 2.13 (pentet, J=7.0 Hz, 2H), 1.50 (s, 9H).

reactant | tert-butyl 4-[4-[2-(difluoromethyl)-4-(3-hydroxypropoxy)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OCCCO)F | C27H36F2N8O5
reactant | Et3N | 3.3 mmol, 0.34 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.8 mmol, 0.32 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Me2NH | 6 g | N(C)C | C2H7N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-[4-{2-(difluoromethyl)-4-[3-(dimethylamino)propoxy]-1H-benzimidazol-1-yl}-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OCCCN(C)C)F | C29H41F2N9O4
